### ISSUE TITLE
"(kernel) application type mismatch" triggered by `grind`

### ISSUE THREAD

**Issue by math-fehr** [leanprover/lean4#9477]
### Description

The following reduced code (https://live.lean-lang.org/#project=lean-nightly&codez=M4FwTgrgxiFgpgAgCqIO4At4IFCMRAA6HYD6ARgPYQB2AJogFyIByAhiDjnfAGYoA6MGxoBzJAAo2TFAEomAXkQAGAWrYCiJMBWr0uILJQQBbRMLHxSAG0ppsiKTOTzmGi+IG37YREuWKiOQAnua81gZGpogg8KCOhM7yEjTM7CCuiDSIgCZEiIRCIp5aDoxKIXiIomAAlvSIlDTWoQDaHlbe2AC6QA) :
```lean
structure T where
  upper_bound : Nat

def T.range (a : T) := 0...a.upper_bound

theorem range_lower (a : T) : a.range.lower = 0 := by rfl

theorem test (p : T) (n: Nat) : n ≤ p.range.upper := by
  grind only [range_lower]
```

is having the following error on the `grind` line (instead of just failing to find a solution):

```
(kernel) application type mismatch
  eq_false_of_decide (Eq.refl false)
argument has type
  false = false
but function has type
  decide (0 = 0) = false → (0 = 0) = False
```

### Context

I was trying to use grind for automating some proofs, and adding this particular lemma  would make it throw this error (on most goals I tried).

### Versions

[Output of `#version` or `#eval Lean.versionString`]
4.23.0-nightly-2025-07-21

### Additional Information

I did not manage to reduce it by replacing `T.range` to use a struct instead of `PRange`.
